US07230031B2
2-Acetyl-3-methoxy-4-(5-methyl-7-nitroindan-4-yloxy)phenyl trifluoromethanesulfonate
To a solution of 1-[6-hydroxy-2-methoxy-3-(5-methyl-7-nitroindan-4-yloxy)phenyl]ethanone (4.12 g) in dichloromethane (40 mL) was added pyridine (2.6 mL). Trifluoromethanesulfonic anhydride (2.55 mL) was added dropwise to the mixture under ice-cooling, and the mixture was stirred at ambient temperature for 1 hour. Adding water, the reaction mixture was acidified with 1 mol/L hydrochloric acid, and extracted with dichloromethane. The organic layer was washed with 1 mol/L hydrochloric acid, water, a saturated aqueous solution of sodium hydrogen carbonate and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=10/1−3/1) to give the title compound (1.892 g).

reactant | 1-[6-hydroxy-2-methoxy-3-(5-methyl-7-nitroindan-4-yloxy)phenyl]ethanone | 4.12 g | OC1=CC=C(C(=C1C(C)=O)OC)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | C19H19NO6
reactant | pyridine | 2.6 mL | N1=CC=CC=C1 | C5H5N
reactant | Trifluoromethanesulfonic anhydride | 2.55 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-Acetyl-3-methoxy-4-(5-methyl-7-nitroindan-4-yloxy)phenyl trifluoromethanesulfonate | 1.892 g | FC(S(=O)(=O)OC1=C(C(=C(C=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-])OC)C(C)=O)(F)F | C20H18F3NO8S
